US08349859B2
To a solution of 2-methoxypyrimidin-4-amine (0.1 mmol) and N-(2-chloropyrimidin-4-yl)-2-methyl-1H-indol-5-amine (0.1 mmol) in 3 ml dioxide, CsCO3 (0.2 mmol), Pd(OAc)2(10 mmol %) and Xantphos (10 mmol %) were added. The mixture was stirred under microwave irradiation at 200° C. for 40 mins. After cooling the solution was filtered and the filtrate was concentrated in vacuo, the residue was purified by column chromatography(C-18) to give N-(2-methoxypyrimidin-4-yl)-N-(2-methyl-1H-indol-5-yl)pyrimidine-2,4-diamine (yield 48%).

reactant | 2-methoxypyrimidin-4-amine | 0.1 mmol | COC1=NC=CC(=N1)N | C5H7N3O
reactant | N-(2-chloropyrimidin-4-yl)-2-methyl-1H-indol-5-amine | 0.1 mmol | ClC1=NC=CC(=N1)NC=1C=C2C=C(NC2=CC1)C | C13H11ClN4
reactant | Xantphos | 10 mmol | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd(OAc)2 | 10 mmol | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-(2-methoxypyrimidin-4-yl)-N-(2-methyl-1H-indol-5-yl)pyrimidine-2,4-diamine | yield 48% | COC1=NC=CC(=N1)N(C1=NC=CC(=N1)N)C=1C=C2C=C(NC2=CC1)C | C18H17N7O
